US04236004
7,8-dihydro-5-hydroxy-2-methylthio-7-oxo-8-piperonyl pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To a solution of sodium ethoxide (1.6 g., 0.03 g. atom of sodium in 50 ml. of absolute ethanol) was added 4.8 g. (0.03 mole) of diethyl malonate. The ethanol was removed under suction in a rotary evaporator. To the residue was added 50 ml. of dry dimethyl formamide followed by 3.5 g. (0.01 mole) of 7-methylthio-1-piperonyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione. The reaction mixture was heated under reflux for 2 hours, cooled in ice and poured into 400 ml. of water. The reaction mixture was acidified with conc. hydrochloric acid. The resulting precipitateable amounted to 5.0 g.--m.p. 173°-178° C. Recrystallization from dimethyl formamide gave 3.4 g. of pure product--m.p. 187°-188° C.

reactant | sodium ethoxide | 50 ml, 1.6 g | [O-]CC.[Na+]
reactant | diethyl malonate | 0.03 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 7-methylthio-1-piperonyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione | 0.01 mole | CSC=1N=CC2=C(N(C(OC2=O)=O)CC2=CC=3OCOC3C=C2)N1 | C15H11N3O5S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 7,8-dihydro-5-hydroxy-2-methylthio-7-oxo-8-piperonyl pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)SC)N(C1=O)CC1=CC=2OCOC2C=C1)O | C19H17N3O6S
